US04567268
In a similar manner, 2.78 grams (6.95 millimoles) of pyridinium bromide perbromide was added in one portion to a cooled to 0° C. mixture of 2 grams of dimethyl 2,6-dimethyl-4-(3,4-methylenedioxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylate and 0.81 milliliter of pyridine in 40 milliliters of ethanol-free chloroform, the resulting mixture stirred at 0° C. for 30 minutes then heated at reflux temperature for 90 minutes to obtain a methyl 2-methyl-4-(3,4-methylenedioxyphenyl)-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate product in the reaction mixture. The product was recovered in a manner similar to that previously described and purified over silica with 70/30 ethyl acetate/hexane to obtain 740 milligrams (39 percent yield) of white crystals. An analytical sample having a melting point of 226°-228° C. was obtained by recrystallizing from ethyl acetate/hexane and drying at 80° C./0.005 millimeters Hg pressure for 48 hours. Elemental analyses were as follow:

reactant | pyridinium bromide perbromide | 6.95 millimoles, 2.78 grams | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | dimethyl 2,6-dimethyl-4-(3,4-methylenedioxyphenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 2 grams | CC=1NC(=C(C(C1C(=O)OC)C1=CC2=C(C=C1)OCO2)C(=O)OC)C | C18H19NO6
reactant | pyridine | 0.81 milliliter | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 40 milliliters | C(C)O | C2H6O
product | methyl 2-methyl-4-(3,4-methylenedioxyphenyl)-5-oxo-1,4,5,7-tetrahydrofuro[3,4-b]pyridine-3-carboxylate | CC1=C(C(C2=C(N1)COC2=O)C2=CC1=C(C=C2)OCO1)C(=O)OC | C17H15NO6
